US03984422
a. 4-Chloro-3-methyl-1H-pyrazolo[4,3-c]pyridine-7-carboxylic acid ethyl ester
22.1 g. of 4-hydroxy-3-methyl-1H-pyrazolo[4,3-c]pyridine-7-carboxylic acid ethyl ester (0.1 mol.) and 100 ml. of phosphorus oxychloride are refluxed for 10 hours. After this time, the excess phosphorus oxychloride is removed by distillation. The oily residue is poured into 50 ml. of ice water. On neutralization with aqueous ammonia, 4-chloro-3-methyl-1H-pyrazolo[4,3-c]-pyridine-7-carboxylic acid ethyl ester crystallizes and is filtered. Recrystallization yields 12 g. (50%), m.p. 180°.

reactant | 4-hydroxy-3-methyl-1H-pyrazolo[4,3-c]pyridine-7-carboxylic acid ethyl ester | 0.1 mol | C(C)OC(=O)C=1C2=C(C(=NC1)O)C(=NN2)C | C10H11N3O3
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-3-methyl-1H-pyrazolo[4,3-c]pyridine-7-carboxylic acid ethyl ester | C(C)OC(=O)C=1C2=C(C(=NC1)Cl)C(=NN2)C | C10H10ClN3O2
